US04013672
By substituting 5-amino-3-phenylpyrazole for the 5-amino-1-ethylpyrazole in part a of Example 1 and continuing as in that Example but substituting ethylhydrazine for the hydrazine hydrate in part e, 2-ethyl-2,5,7,8-tetrahydro-3-phenyl-1,2,4,5,6-pentaazabenzo[6,7]cyclohepta[1,2,3-cd]-as-indacene is obtained.

reactant | 5-amino-3-phenylpyrazole | NC1=CC(=NN1)C1=CC=CC=C1 | C9H9N3
reactant | 5-amino-1-ethylpyrazole | NC1=CC=NN1CC | C5H9N3
reactant | ethylhydrazine | C(C)NN | C2H8N2
reactant | hydrazine hydrate | O.NN
product | 2-ethyl-2,5,7,8-tetrahydro-3-phenyl-1,2,4,5,6-pentaazabenzo[6,7]cyclohepta[1,2,3-cd]-as-indacene | C(C)N1N=C2C=3C(=NC=4NN=C(C4C13)C1=CC=CC=C1)CCC1=C2C=CC=C1 | C23H19N5
